US07612075B2
A. (±)-1-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester
A solution containing (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester (55 mg, 0.12 mmol) in CH2Cl2 (1 mL) is cooled to 0° C. DIPEA (24 mg, 0.18 mmol) is then added followed by the addition of 6-chloro-benzo[b]thiophene-2-sulfonyl chloride (32 mg, 0.12 mmol), EXAMPLE 1. The reaction mixture is warmed to ambient temperature. After 16 h, the reaction mixture is absorbed directly onto silica gel and chromatographed (CH2Cl2 to 2% MeOH/CH2Cl2) to provide 60 mg (73%) of the title compound. 1H NMR (300 MHz, CDCl3) δ2.77 (dd, J=12.3, 3.4 Hz, 1H), 3.50-3.72 (m, 3H), 3.79 (s, 3H), 4.15 (dd, J=12.3, 1.4 Hz, 1H), 4.24 (d, J=16.9 Hz, 1H), 5.41 (d, J=15.3 Hz, 1H), 6.50 (s, 1H), 6.76 (dd, J=7.9, 1.4 Hz, 1H), 7.11-7.86 (m, 15H) ppm; MS (ISP loop): m/z 683 (M+H).

reactant | (±)-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-6-oxo-piperazine-2-carboxylic acid methyl ester | 0.12 mmol, 55 mg | COC(=O)C1N(C(CNC1)=O)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O3
reactant | DIPEA | 0.18 mmol, 24 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-benzo[b]thiophene-2-sulfonyl chloride | 0.12 mmol, 32 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 60 mg, 73% | COC(=O)C1N(C(CN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)CC2=CC(=C(C=C2)C#N)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C35H27ClN4O5S2
